US04199582
In 100 ml. of ethanol was dissolved 2 g. of 6-dimethylamino-3,4-dihydro-1(2H)-naphthalenone hydrochloride, 4 g. of 1-benzhydrylpiperazine hydrochloride and 4 g. of a 37% aqueous solution of formalin and the reaction was carried out at room temperature for 2 hours. The reaction mixture was diluted with 500 ml. of water, neutralized with sodium hydrogen carbonate and extracted with chloroform. The chloroform extract was dried and distilled under reduced pressure to remove the solvent, whereupon 2-[(4-benzhydryl-1-piperazinyl)methyl]-6-dimethylamino-3,4-dihydro-1(2H)-naphthalenone was obtained as an oil. This oily product was dissolved in 50 ml. of methanol and stirred with 2.5 g. of sodium borohydride at room temperature for 30 minutes. The reaction mixture was diluted with 500 ml. of water and extracted with chloroform. The extract was dried and the solvent was distilled off under reduced pressure. By the above procedure there was obtained 2-[(4-benzhydryl-1-piperazinyl)methyl]-6-dimethylamino-1,2,3,4-tetrahydro-1-naphthalenol as an oil. This oil was dissolved in 50 ml. of ethanolic HCl and the solution was heated under reflux for 2 hours. Upon cooling there was obtained 1.5 g. of 3-[(4-benzhydryl-1-piperazinyl)methyl]-7-dimethylamino-1,2-dihydronaphthalene hydrochloride as colorless needles melting at 190°-195° C.(decomposition).

reactant | 6-dimethylamino-3,4-dihydro-1(2H)-naphthalenone hydrochloride | Cl.CN(C=1C=C2CCCC(C2=CC1)=O)C
reactant | 1-benzhydrylpiperazine hydrochloride | Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCNCC1
reactant | formalin | C=O | CH2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 2-[(4-benzhydryl-1-piperazinyl)methyl]-6-dimethylamino-3,4-dihydro-1(2H)-naphthalenone | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCN(CC1)CC1C(C2=CC=C(C=C2CC1)N(C)C)=O | C30H35N3O
